US05223505
A suspension of 2-amino-4-chloropyrimidine (1.3 g; 10 mM) in dioxan (30 ml) was treated with indoline (2.4 g; 20 mM) and the mixture was heated for 18 hours at 95°-100° C. The precipitated product was separated from the cooled mixture by filtration and suspended in a mixture of 2-propanol (30 ml) and a solution of potassium hydroxide flake (6 g) in water (10 ml). This mixture was stirred and heated at 95°-100° C. for one hour. The hot 2-propanol solution was separated from the aqueous layer and allowed to cool. The solid product was recrystallised from 2-propanol to give 2-amino-4-(indolin-1-yl)pyrimidine as a solid (1.9 g, 89.6%), m.p. 177°-179° C.; microanalysis, found: C,62.2; H,6.2; N,23.8%; C12H12N4.H2O requires: C, 62.6; H,6.1; N,24.3%.

reactant | 2-amino-4-chloropyrimidine | 10 mM, 1.3 g | NC1=NC=CC(=N1)Cl | C4H4ClN3
reactant | indoline | 20 mM, 2.4 g | N1CCC2=CC=CC=C12 | C8H9N
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
product | 2-amino-4-(indolin-1-yl)pyrimidine | 1.9 g, 89.6% | NC1=NC=CC(=N1)N1CCC2=CC=CC=C12 | C12H12N4
